US07531560B2
Synthesis of 1-(5-carboxy-2-methyl-phenyl)-1H-imidazole-4-carboxylic acid ethyl ester
A slurry of 3-amino-4-methylbenzoic acid (5.00 g, 33.1 mmol), ethyl orthoformate (5.94 mL), ethyl nitroacetate (3.67 mL), and acetic acid (0.2 mL) was heated to 100° C. with stirring for 3.5 h. The mixture was cooled to 85° C. and an additional 66 mL each of ethyl orthoformate and acetic acid were added followed by 5.54 g (99.2 mmol) of iron powder. The mixture was heated to reflux and stirred for 1 h, when an additional 5.54 g of iron powder was added in three portions, each portion after 1 h of stirring at reflux. The mixture was then heated for an additional 6 h before being cooled to room temperature. The mixture was filtered and the solids were washed with EtOAc. The filtrate was collected and concentrated to afford a brown semisolid. The solid was triturated with Et2O/EtOAc to provide 1.93 g (7.04 mmol, 21.3%) of the title compound as a tan solid.

reactant | 3-amino-4-methylbenzoic acid | 33.1 mmol, 5.00 g | NC=1C=C(C(=O)O)C=CC1C | C8H9NO2
reactant | ethyl orthoformate | 5.94 mL | C(OCC)([O-])[O-]
reactant | ethyl nitroacetate | 3.67 mL | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
reactant | ethyl orthoformate | 66 mL | C(OCC)([O-])[O-]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 99.2 mmol, 5.54 g | [Fe] | Fe
catalyst | iron | 5.54 g | [Fe] | Fe
product | 1-(5-carboxy-2-methyl-phenyl)-1H-imidazole-4-carboxylic acid ethyl ester | 7.04 mmol, 1.93 g, 21.3% | C(C)OC(=O)C=1N=CN(C1)C1=C(C=CC(=C1)C(=O)O)C | C14H14N2O4
